US05958942
4,5-Dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione
To a solution of 4.07 g (54.9 mmol) of 1,3-diaminopropane and 5.32 g (41.2 mmol) of N,N-diisopropylethylamine in 70 ml of acetonitrile was added a solution of 9.21 g (27.4 mmol) of 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine in 70 ml of acetonitrile. The mixture was heated for 0.5 hour under reflux. After cooling, to which was added 23.96 g (110 mmol) of di-tert-butyl dicarbonate, stirred for one hour at room temperature. The solvent was distilled off. To the residue was added chloroform. The mixture was washed with water, then dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by a column chromatography (eluent: ethyl acetate), treated with ethyl acetate and n-hexane to give 7.66 g of the desired compound (81.1%, pale yellow solid), m.p.150.0-151.0° C.

reactant | 1,3-diaminopropane | 54.9 mmol, 4.07 g | NCCCN | C3H10N2
reactant | N,N-diisopropylethylamine | 41.2 mmol, 5.32 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-ethoxycarbonyl-3-trichloroacetylimidazo[1,2-a]pyridine | 27.4 mmol, 9.21 g | C(C)OC(=O)C1=CC=CC=2N1C(=CN2)C(C(Cl)(Cl)Cl)=O | C12H9Cl3N2O3
reactant | di-tert-butyl dicarbonate | 110 mmol, 23.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 4,5-Dihydro-4-[4-(tert-butoxycarbonylamino)butan-1-yl]-3H-1,4,8b-triazaacenaphthylene-3,5-dione | 7.66 g, 81.1% | C(C)(C)(C)OC(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1=O)N32)=O | C18H22N4O4
